US05200420
2'-Chloro-3'-methyl-benzanilide
57 g (0.4 mol) of 2-chloro-3-methyl-aniline [CA 89, 30772h) were dissolved in 1.5 1 of toluene, 55 g of potassium carbonate were added and 62 g (0.4 mol) of benzoyl chloride were added dropwise at 80° C. After reaction is complete, the solid was filtered off in the cold and washed with water, and the filtrate was dried. After concentrating and triturating with petroleum ether 98 g of product (100%) crystallized.

reactant | 2-chloro-3-methyl-aniline | 0.4 mol, 57 g | ClC1=C(N)C=CC=C1C | C7H8ClN
reactant | potassium carbonate | 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.4 mol, 62 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2'-Chloro-3'-methyl-benzanilide | ClC1=C(NC(C2=CC=CC=C2)=O)C=CC=C1C | C14H12ClNO
